US04398044
1-acetyl-1-ethylcyclohexane
To 180 g. of (1-ethylcyclohexylcarbonyl)-acetonitrile was added 1 liter of 12 N hydrochloric acid, and the mixture was stirred under reflux for 2.5 hours and was cooled. The mixture was then extracted with one 1000 ml. and one 500 ml. portion of pentane, and the organic layers were combined, dried over magnesium sulfate and concentrated under vacuum at a temperature near 30°. The desired product was found to co-distill, in part, with the solvent, and so the vacuum and temperature were carefully watched to avoid excessive loss of the product, which was identified by its molecular ion in mass spectroscopic analysis, 154. Its boiling point was 44°-45° at 0.4 torr.

reactant | (1-ethylcyclohexylcarbonyl)-acetonitrile | C(C)C1(CCCCC1)C(=O)CC#N | C11H17NO
solvent | hydrochloric acid | 12 N, 1 liter | Cl | ClH
product | 1-acetyl-1-ethylcyclohexane | C(C)(=O)C1(CCCCC1)CC | C10H18O
